2118-01-29 08:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2118-1-28**] 06:48 PM
 INVASIVE VENTILATION - STOP [**2118-1-28**] 10:28 PM
   Overnight extubated.  Has had episodes of non-bloody, biliary emesis
   and diarrhea. Has not passed flatus
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2118-1-29**] 08:03 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2118-1-29**] 06:00 AM
   Pantoprazole (Protonix) - [**2118-1-29**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2118-1-29**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-29**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 107 (81 - 109) bpm
   BP: 122/49(68) {112/49(68) - 159/84(101)} mmHg
   RR: 24 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    415 mL
                                                                  1,533 mL
   PO:
             TF:
   IVF:
                                                                    415 mL
                                                                  1,533 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    470 mL
   Urine:
                                                                    340 mL
                                                                    270 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                     75 mL
                                                                  1,063 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 97%
   ABG: ///28/
   Ve: 6.5 L/min
   Physical Examination
   Tachycardia, no murmurs, coarse bs at bases, ttp at RUQ w/o
   guarding/rebound, reduced bowel sounds
   Labs / Radiology
   273 K/uL
   13.2 g/dL
   165 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.3 mEq/L
   7 mg/dL
   100 mEq/L
   137 mEq/L
   43.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2118-1-28**]  11:11 PM
                             [**2118-1-29**]  05:56 AM
   WBC
   9.4
   12.6
   Hct
   38.7
   43.4
   Plt
   248
   273
   Cr
   0.6
   Glucose
   165
   Other labs: PT / PTT / INR:13.2/29.4/1.1, ALT / AST:80/77, Alk Phos / T
   Bili:592/2.8, LDH:307 IU/L, Ca++:8.8 mg/dL, Mg++:1.4 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
 CHOLECYSTITIS, ACALCULOUS
   62 yo female w/ PMH sig for metastatic ovarian cancer diagnosed 10
   years ago, s/p TAH and BSO, adjuvant chemo (last treated [**9-24**]), and
   peritoneal stripping in [**2110**], HTN, hyperlipidemia transferred from
   [**Hospital6 **] for cholecystitis and ERCP, now s/p sphincterotomy
   and stent, intubated for concern of SBO/aspiration risk and extubated
   overnight but w/ episodes of biliary emesis and diarhea.
   Biliary obstruction: S/p sphincterotomy and stenting. With new
   leukocytosis, possible translocation of gut flora though patient
   remains afebrile and LFTs downtrending.
   -- Trend LFTs
   -- Continue to monitor hemodynamics, CIS and broaden abx coverage to
   include gut flora
   .
   SBO: Patient w/ emesis/diarrhea and known peritoneal mets.
   -- Continue NPO
   -- Place NGT
   -- Reassess in the AM, monitor stooling, consider imaging CT abdomen
   -- Continue antiemetics: zofran iv prn
   .
   Ovarian Cancer: Followed by oncology at [**Hospital6 **] with plans
   for further treatment.
   -- Will contact [**Hospital3 **] regarding further treatment
   .
   UTI: per OSH recs, sig for 100,000 enterococcus
   -- Continue linezolid
   -- Send off urine cx
   .
   HTN:
   -- Holding antihypertensives, can restart in AM if blood pressures
   remain stable
   .
   Hyperlipidemia:
   -- Holding statin
   .
   FEN: IVFs, replete electrolytes, NPO
   .
   Prophylaxis: Subutaneous heparin
   .
   Access: 2 peripherals
   .
   Code:  Full
   .
   Communication: Sister
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-1-28**] 06:46 PM
   22 Gauge - [**2118-1-28**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-01-29 08:34:00 Physician Attending Progress Note
Chief Complaint: observation post-ERCP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yr old female with a PMH significant for metastatic ovarian cancer
   diagnosed 10 years ago, s/p TAH and BSO, adjuvant chemo (last treated
   [**9-24**]), and peritoneal stripping in [**2110**], HTN, hyperlipidemia, who
   presented initially to [**Hospital6 **] with malasie and
   transferred to [**Hospital1 19**] for ERCP.  Kept intubated post ERCP due to
   vomiting post procedure, concern for aspiration. Being treated for
   enterococcus UTI with Linezolid (based on OSH sensitivities). Extubated
   overnight.
   24 Hour Events:
   Admitted post-ERCP yesterday
   Extubated o/n, now on 2L NC
   Several episodes of bilious emesis and diarrhea
   UOP dropped this am
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2118-1-29**] 08:03 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2118-1-29**] 06:00 AM
   Pantoprazole (Protonix) - [**2118-1-29**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2118-1-29**] 08:03 AM
   Other medications:
   D5
 NS at 75/hour
   Pantoprazole 40 IV BID
   Heparin SC TID
   Linezolid
   PRNs: zofran 4 mg IV x 2, morphine 0.5 x 2, morphine 1 mg x 1,
   compazine x 1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:  feels
better
, no SOB or cough
   Flowsheet Data as of  [**2118-1-29**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 107 (81 - 109) bpm
   BP: 122/49(68) {112/49(68) - 159/84(101)} mmHg
   RR: 24 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    415 mL
                                                                  1,551 mL
   PO:
             TF:
   IVF:
                                                                    415 mL
                                                                  1,551 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    470 mL
   Urine:
                                                                    340 mL
                                                                    270 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                     75 mL
                                                                  1,081 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 97%
   ABG: ///25/
   Ve: 6.5 L/min
   Physical Examination
   Gen: awake, alert
   Chest: few rales at B bases
   CV: RRR, no murmurs
   Abd: soft, + TTP in RUQ and lower mid abdomen
   Extr: warm, no edema
   Labs / Radiology
   13.2 g/dL
   273 K/uL
   145 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.0 mEq/L
   9 mg/dL
   101 mEq/L
   136 mEq/L
   43.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2118-1-28**]  11:11 PM
                             [**2118-1-29**]  05:56 AM
   WBC
   9.4
   12.6
   Hct
   38.7
   43.4
   Plt
   248
   273
   Cr
   0.6
   0.6
   Glucose
   165
   145
   Other labs: PT / PTT / INR:13.2/29.4/1.1, ALT / AST:73/58, Alk Phos / T
   Bili:589/2.5, LDH:354 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:4.1
   mg/dL
   Micro: OSH urine cx with VRE
   UA here: few bacteria, neg LE. Cx pending
   CXR: yest PM: increased diffuse L sided opacities compared to CXR
   earlier the same day
   Assessment and Plan
   62 yr old lady with a PMH significant for metastatic ovarian cancer
   diagnosed 10 years ago, s/p TAH and BSO, adjuvant chemo (last treated
   [**9-24**]), and peritoneal stripping in [**2110**], HTN, hyperlipidemia, who
   presented initially to [**Hospital6 **] with malasie and
   transferred to [**Hospital1 19**] for ERCP. Intubated post ERCP due to vomiting post
   procedure, concern for aspiration. Being treated for enterococcus UTI
   with Linezolid (based on OSH sensitivities); extubated overnight.
   1. Acute respiratory failure
 intubated due to vomiting post ERCP. NG
   at LWS, no residuals.  Extubated o/n, now stable on 2L NC.  WBCs up
   this am, and ?aspiration [**1-18**] emesis. Afebrile, hemodynamically stable.
   - Monitor oxygenation
   - Send sputum culture if produces sample
   - Low threshold to expand coverage to include GNs for HAP
   2. Cholecystitis: s/p ERCP with sphincterotomy and stenting. Bilis
   slowly improving today.  WBCs up this am, ?[**1-18**] aspiration vs. transient
   bacteremia [**1-18**] ERCP.  Now with decreasing UOP.  Cr normal.
   - Conitnue IVF (bolus now for UOP then maintenance), NPO
   3. Suspected SBO based on OSH transfer summary.  Per pt, had a CT
   there, but report not available to us.
   - Place NGT, NPO, IVF
   - Consider O+ abd CT if worsens or cannot get report from [**Hospital1 **]
   4. UTI: c/w linezolid, f/up urine Cx here
   5. HTN: hold antihypertensives given leukocytosis and
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-1-28**] 06:46 PM
   22 Gauge - [**2118-1-28**] 07:30 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   Communication:  with patient
   Code status: FULL
   Disposition: ICU for now
   Total time spent: 35 min CCT

2118-01-29 11:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2118-1-28**] 06:48 PM
 INVASIVE VENTILATION - STOP [**2118-1-28**] 10:28 PM
   Overnight patient successfully extubated.  Patient had episodes of
   biliary non-bloody episodes, diarrhea, and not passing flatus this am.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2118-1-29**] 08:03 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-1-29**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2118-1-29**] 08:03 AM
   Morphine Sulfate - [**2118-1-29**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-29**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 105 (81 - 109) bpm
   BP: 86/65(70) {86/40(47) - 159/84(101)} mmHg
   RR: 29 (12 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    415 mL
                                                                  2,785 mL
   PO:
             TF:
   IVF:
                                                                    415 mL
                                                                  2,785 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    500 mL
   Urine:
                                                                    340 mL
                                                                    300 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                     75 mL
                                                                  2,285 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 94%
   ABG: ///25/
   Ve: 6.5 L/min
   Physical Examination
   Tachy, no murmurs, coarse breath sounds bl, ttp at RUQ no guarding/rt
   Labs / Radiology
   273 K/uL
   13.2 g/dL
   145 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.0 mEq/L
   9 mg/dL
   101 mEq/L
   136 mEq/L
   43.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2118-1-28**]  11:11 PM
                             [**2118-1-29**]  05:56 AM
   WBC
   9.4
   12.6
   Hct
   38.7
   43.4
   Plt
   248
   273
   Cr
   0.6
   0.6
   Glucose
   165
   145
   Other labs: PT / PTT / INR:13.2/29.4/1.1, ALT / AST:73/58, Alk Phos / T
   Bili:589/2.5, LDH:354 IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 CHOLECYSTITIS, ACALCULOUS
   62 yo female w/ PMH sig for metastatic ovarian cancer diagnosed 10
   years ago, s/p TAH and BSO, adjuvant chemo (last treated [**9-24**]), and
   peritoneal stripping in [**2110**], HTN, hyperlipidemia transferred from
   [**Hospital6 **] for cholecystitis and ERCP, now s/p sphincterotomy
   and stent, extubated successfully, but after episode of aspiration and
   now w/ nausea/vomiting and diarrhea.
   Cholecystitis: s/p ERCP with sphincterotomy and stenting.  She remains
   afebrile and hemodynamically stable, but is on abx for UTI (see below).
   With new leukocytosis, though lfts stable.
   -- Trend LFTs
   -- Continue to monitor hemodynamics, CIS and broaden abx coverage to
   include gut flora
   .
   Respiratory Failure: Intubated for concern of aspiration post-ERCP.
   Now w/ new leukocytosis.  Will continue to monitor hemodynamics and
   oxygenation.
   -- Sputum cx
   -- If spikes, consider coverage for HAP
   -- NPO, aspiration precautions
   SBO: With emesis/diarrhea and peritoneal involvement of ovarian cancer.
   -- Continue NPO, aspiration precautions, IVFs
   -- Consider CT abdomen
   -- Continue antiemetics zofran/compazine
   .
   Leukocytosis:
   -- Sputum, blood, and stool cx
   -- Continue linezolid for UTI (see below)
   Ovarian Cancer: Followed by oncology at [**Hospital6 **] with plans
   for further treatment.
   -- Will contact [**Hospital3 **] regarding further treatment
   .
   UTI: per OSH recs, sig for 100,000 enterococcus
   -- Continue linezolid
   -- Send off urine cx
   .
   HTN:
   -- Holding antihypertensives, can restart in AM if blood pressures
   remain stable
   .
   Hyperlipidemia:
   -- Holding statin
   ICU Care
   Nutrition: NPO, NGT placement, IVFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-1-28**] 06:46 PM
   22 Gauge - [**2118-1-28**] 07:30 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU for now

2118-01-30 08:03:00 Physician Attending Progress Note
Chief Complaint:  biliary obstruction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Likely aspiration event, tachycardic, cefepime and flagyl addeded for
   HAP coverage
   NGT placed for ongoing emesis
   Abd/Chest done: partial SBO, B pleural effusions, numerous lung and
   intraabdominal mets
   Decreased UOP, improved with IVF
                                        History obtained from Patient
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2118-1-29**] 07:41 PM
   Metronidazole - [**2118-1-30**] 12:00 AM
   Cefipime - [**2118-1-30**] 06:04 AM
   Other ICU medications:
   Morphine Sulfate - [**2118-1-29**] 08:30 AM
   Pantoprazole (Protonix) - [**2118-1-29**] 07:42 PM
   Heparin Sodium (Prophylaxis) - [**2118-1-30**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2118-1-30**] 05:00 AM
   Other medications:
   D5
 NS at 125/hr
   Pantopazole
   Heparin SC
   Linezolid 600 IV Q12
   Flagyl 500 IV Q8
   Cefepime
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-30**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 121 (104 - 130) bpm
   BP: 143/64(82) {86/21(40) - 161/79(100)} mmHg
   RR: 28 (23 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,232 mL
                                                                  1,142 mL
   PO:
             TF:
   IVF:
                                                                  5,832 mL
                                                                  1,142 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    850 mL
   Urine:
                                                                    700 mL
                                                                    200 mL
   NG:
                                                                  1,400 mL
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                  3,482 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Gen: awake, fatigued appearing
   Neck: supple, JVP flat
   Chest: decreased breath sounds with rales at L base
   CV: tachycardic, regular, no murmurs or gallops
   Abd: soft, + TTP in lower mid abdomen, no BS
   Extr:
   Labs / Radiology
   11.4 g/dL
   268 K/uL
   142 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   9 mg/dL
   102 mEq/L
   135 mEq/L
   35.3 %
   3.8 K/uL
        [image002.jpg]
                             [**2118-1-28**]  11:11 PM
                             [**2118-1-29**]  05:56 AM
                             [**2118-1-29**]  03:07 PM
                             [**2118-1-30**]  03:11 AM
   WBC
   9.4
   12.6
   3.8
   Hct
   38.7
   43.4
   35.3
   Plt
   [**Telephone/Fax (3) 13313**]
   Cr
   0.6
   0.6
   0.5
   Glucose
   165
   145
   127
   142
   Other labs: PT / PTT / INR:13.6/31.0/1.2, ALT / AST:47/26, Alk Phos / T
   Bili:376/2.0, Lactic Acid:2.2 mmol/L, LDH:354 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Micro: C. diff neg x 1, blood and urine NGTD
   Imaging:
   Chest/Abdomen
    CT:
   1. Dilated proximal small bowel loops with adjacent fluid. More distal
   loops of small bowel are decompressed. Air is seen within the colon
   although the left colon is decompressed. Findings are suggestive of an
   incomplete small-bowel obstruction.
   2. Transverse colon, and pelvic small bowel loops appear adherent to
   the anterior abdominal wall and may reflect the site of incomplete
   small-bowel obstruction although no transition point is identified.
   3. Necrotic masses in the left anterior abdominal wall, and along the
   left external iliac artery and vein suggestive of necrotic masses which
   may be necrotic nodes in the setting of patient's known ovarian cancer.
   4. Innumerable bilateral pulmonary nodules suggestive of metastatic
   disease.
   5. Bilateral pleural effusions, left greater than right with adjacent
   compressive atelectasis on the left side. No findings in the lung
   suggestive of infection.
   6. Dilated contrast-filled esophagus may predispose the patient to
   aspiration.
   7. Stent within the CBD. There is periportal edema but no significant
   biliary ductal dilation.
   Assessment and Plan
   62 yr old lady with a PMH significant for metastatic ovarian cancer
   diagnosed 10 years ago, s/p TAH and BSO, adjuvant chemo (last treated
   [**9-24**]), and peritoneal stripping in [**2110**], HTN, hyperlipidemia, who
   presented initially to [**Hospital6 **] with malasie and
   transferred to [**Hospital1 19**] for ERCP, now extubated and with likely aspiration
   PNA.
   1. Respiratory failure
 intubated due to vomiting post ERCP, extubated
   upon arrival to the [**Hospital Unit Name 1**] but then with persistent vomiting, and likely
   aspiration yesterday. CXR and CT with B effusions and consolidation vs.
   PNA at L base.  Now with low-grade temps; leukocytosis yesterday, and
   now leukopenia.
   - Continue cefepime, flagyl, linezolid
   - f/up blood cultures
   2. Tachycardia: HRs in the 80s on admission, now with a lot of stool
   output that is unmeasured.  First c. diff neg, has an enterococcus UTI
   (at OSH), treated with linezolid, and is currently in pain.  Lower
   suspicion for PE given alternative explanations, but high risk given
   underlying malignancy.
   - check ECG
   - NS bolus
   - f/up cultures
   - continue abx as above
   - monitor UOP
   3. Cholecystitis: s/p ERCP with sphincterotomy and stenting. Bilis
   trending down.
   - Conitnue IVF (bolus now for UOP then maintenance), NPO
   - continue to trend LFTs
   4. SBO: confirmed by CT here, [**1-18**] intraabdominal mets, still no flatus
   today and no BS on exam.
   - Continue NGT, IVF, NPO
   5. UTI: c/w linezolid, f/up urine Cx here
   6. HTN: hold antihypertensives given low-grade temps and tachycardia,
   concern for impending septic shock
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:  in for PICC today
   20 Gauge - [**2118-1-28**] 06:46 PM
   22 Gauge - [**2118-1-28**] 07:30 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   Communication:  with patient
   Code status: full
   Disposition : ICU (will d/w [**Hospital3 1959**] re : transfer back to their
   ICU)
   Patient is critically ill.
   Total time spent: 35 min CCT

2118-01-31 07:24:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:  ERCP
   24 Hour Events:
 EKG - At [**2118-1-30**] 10:30 AM
 PICC LINE - START [**2118-1-30**] 10:57 AM
 STOOL CULTURE - At [**2118-1-30**] 11:12 AM
   [**2118-1-30**]
   - started metoprolol for recurrent bouts of NSVT
   - PICC placed
   - increased dilaudid
   - started fentanyl
   - nausea improved
   - CEs negative x 3
   - ERCP recs: allow to settle
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2118-1-30**] 07:39 PM
   Metronidazole - [**2118-1-30**] 11:55 PM
   Cefipime - [**2118-1-31**] 06:44 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-1-30**] 07:39 PM
   Heparin Sodium (Prophylaxis) - [**2118-1-30**] 11:55 PM
   Hydromorphone (Dilaudid) - [**2118-1-31**] 04:04 AM
   Metoprolol - [**2118-1-31**] 05:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-31**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.4
C (97.6
   HR: 93 (79 - 128) bpm
   BP: 174/85(106) {129/41(77) - 183/85(106)} mmHg
   RR: 17 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,567 mL
                                                                  1,295 mL
   PO:
             TF:
   IVF:
                                                                  5,567 mL
                                                                  1,295 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    470 mL
   Urine:
                                                                    745 mL
                                                                    470 mL
   NG:
                                                                  1,550 mL
   Stool:
   Drains:
   Balance:
                                                                  3,222 mL
                                                                    825 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General: NAD, no jaundice, mild icterus improving, alert, more pleasant
   today
   Neck: supple, JVP not elevated, no LAD
   Lungs: breath sounds clear to auscultation bilaterally, no wheezes,
   rales, ronchi
   CV: Regular rate, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Obese, non-tender, less distended, bowel sounds present,
   areas of firmness along lower quadrants also improved, no rebound
   tenderness or guarding, no organomegaly
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   208 K/uL
   9.5 g/dL
   103 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.3 mEq/L
   9 mg/dL
   100 mEq/L
   132 mEq/L
   28.9 %
   4.5 K/uL
        [image002.jpg]
                             [**2118-1-28**]  11:11 PM
                             [**2118-1-29**]  05:56 AM
                             [**2118-1-29**]  03:07 PM
                             [**2118-1-30**]  03:11 AM
                             [**2118-1-30**]  02:34 PM
                             [**2118-1-30**]  08:37 PM
                             [**2118-1-31**]  04:15 AM
   WBC
   9.4
   12.6
   3.8
   5.0
   4.5
   Hct
   38.7
   43.4
   35.3
   31.0
   28.9
   Plt
   [**Telephone/Fax (3) 13336**]31
   208
   Cr
   0.6
   0.6
   0.5
   0.4
   TropT
   <0.01
   0.03
   0.01
   Glucose
   165
   145
   127
   142
   103
   Other labs: PT / PTT / INR:14.9/34.5/1.3, CK / CKMB /
   Troponin-T:14/2/0.01, ALT / AST:28/20, Alk Phos / T Bili:255/1.3,
   Lactic Acid:2.2 mmol/L, LDH:278 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.4 mg/dL
   Imaging: CXR AP [**2118-1-30**]:
   New PICC line -- tip slightly obscured, likely over proximal/mid SVC.
   No
   pneumothorax.
   Microbiology: [**2118-1-29**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2118-1-29**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   C diff [**2118-1-29**], and [**2118-1-30**] negative
   Sputum [**2118-1-30**]: Cancelled
   Assessment and Plan
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 NAUSEA / VOMITING
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 LEUKOCYTOSIS
 PNEUMONIA, ASPIRATION
 CHOLECYSTITIS, ACALCULOUS
   Assessment and Plan
 CHOLECYSTITIS, ACALCULOUS
   62 yo female w/ PMH sig for metastatic ovarian cancer diagnosed 10
   years ago, s/p TAH and BSO, adjuvant chemo (last treated [**9-24**]), and
   peritoneal stripping in [**2110**], HTN, hyperlipidemia transferred from
   [**Hospital6 **] for cholecystitis and ERCP, now s/p sphincterotomy
   and stent, extubated successfully, but after episode of aspiration and
   now w/ diarrhea and probable partial SBO.
   Cholecystitis: s/p ERCP with sphincterotomy and stenting. LFTs
   improving. She remains afebrile and hemodynamically stable, but is on
   abx for UTI (see below). With new leukocytosis, though lfts stable.
   -- Trend LFTs
   -- Continue to monitor hemodynamics, cis
   .
   Respiratory Failure: Resolved, however concern for aspiration PNA.
   -- Sputum cx
   -- NPO, aspiration precautions
   -- continue flagyl and cefepime to cover HAP (and Linezolid for both
   HAP and UTI) as pt showing signs of SIRS
   .
   Anemia: Guiac positive green emesis, however guiac negative green
   stool. HCT drop unlikely from GI bleed as pt without frank melena or
   coffee ground emesis. Probably dilutional given IVF.
   - PM HCT
   - Guiac all stools
   - Continue PPI
   - Active type and screen
   - Transfuse for HCT <21
   - Large bore IVs x 2
   .
   NSVT: High activity in setting of persistent hypokalemia with emesis
   and diarrhea. Likely component of BB withdrawl
   -- Aggressive monitoring of lytes with [**Hospital1 7**] K/Mg
   -- Replete K this AM
   -- Maintainance fluids of 40meQ of KCl plus D5NS
   -- Change to metoprolol 10mg IV Q4H,
   -- Trial of PO metoprolol to get longer acting coverage
   SBO: Improving given decreased emesis and decreased NG tube output. CT
   abdomen c/w partial SBO, also pt with emesis/diarrhea and peritoneal
   involvement of ovarian cancer.
   -- Continue NG tube to LIS, NPO, aspiration precautions, IVFs
   -- Continue antiemetics zofran/compazine
   .
   Leukocytosis: Concerning for sepsis given tachycardia. Possibly
   secondary to aspiration and or HAP
   -- Repeat Sputum cx
   -- f/u blood, and stool cx
   -- Continue linezolid for UTI (see below), cefepime and flagyl for HAP
   per above
   Ovarian Cancer: Followed by oncology at [**Hospital6 **] with plans
   for further treatment.
   -- Will contact [**Hospital3 **] regarding further treatment
   .
   UTI: per OSH recs, sig for 100,000 VRE
   -- Continue linezolid
   .
   HTN:
   -- Continue BB per above
   .
   Hyperlipidemia:
   -- Holding statin
   ICU Care
   Nutrition: NPO, NGT placement, IVFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-1-28**] 06:46 PM
   22 Gauge - [**2118-1-28**] 07:30 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: [**Hospital 4388**] transfer to [**Hospital 13164**] hospital today pending bed
   availability

2118-01-31 07:26:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: ERCP
   24 Hour Events:
 EKG - At [**2118-1-30**] 10:30 AM
 PICC LINE - START [**2118-1-30**] 10:57 AM
 STOOL CULTURE - At [**2118-1-30**] 11:12 AM
   [**2118-1-30**]
   - started metoprolol for recurrent bouts of NSVT
   - PICC placed
   - increased dilaudid
   - started fentanyl
   - nausea improved
   - CEs negative x 3
   - ERCP recs: allow to settle
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2118-1-30**] 07:39 PM
   Metronidazole - [**2118-1-30**] 11:55 PM
   Cefipime - [**2118-1-31**] 06:44 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-1-30**] 07:39 PM
   Heparin Sodium (Prophylaxis) - [**2118-1-30**] 11:55 PM
   Hydromorphone (Dilaudid) - [**2118-1-31**] 04:04 AM
   Metoprolol - [**2118-1-31**] 05:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-31**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.4
C (97.6
   HR: 93 (79 - 128) bpm
   BP: 174/85(106) {129/41(77) - 183/85(106)} mmHg
   RR: 17 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,567 mL
                                                                  1,330 mL
   PO:
             TF:
   IVF:
                                                                  5,567 mL
                                                                  1,330 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    470 mL
   Urine:
                                                                    745 mL
                                                                    470 mL
   NG:
                                                                  1,550 mL
   Stool:
   Drains:
   Balance:
                                                                  3,222 mL
                                                                    860 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   9.5 g/dL
   103 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.3 mEq/L
   9 mg/dL
   100 mEq/L
   132 mEq/L
   28.9 %
   4.5 K/uL
        [image002.jpg]
                             [**2118-1-28**]  11:11 PM
                             [**2118-1-29**]  05:56 AM
                             [**2118-1-29**]  03:07 PM
                             [**2118-1-30**]  03:11 AM
                             [**2118-1-30**]  02:34 PM
                             [**2118-1-30**]  08:37 PM
                             [**2118-1-31**]  04:15 AM
   WBC
   9.4
   12.6
   3.8
   5.0
   4.5
   Hct
   38.7
   43.4
   35.3
   31.0
   28.9
   Plt
   [**Telephone/Fax (3) 13336**]31
   208
   Cr
   0.6
   0.6
   0.5
   0.4
   TropT
   <0.01
   0.03
   0.01
   Glucose
   165
   145
   127
   142
   103
   Other labs: PT / PTT / INR:14.9/34.5/1.3, CK / CKMB /
   Troponin-T:14/2/0.01, ALT / AST:28/20, Alk Phos / T Bili:255/1.3,
   Lactic Acid:2.2 mmol/L, LDH:278 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.4 mg/dL
   Imaging: CXR AP [**2118-1-30**]:
   New PICC line -- tip slightly obscured, likely over proximal/mid SVC.
   No
   pneumothorax.
   Microbiology: [**2118-1-29**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2118-1-29**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   C diff [**2118-1-30**], [**2118-1-31**] negative
   Sputum [**2118-1-30**]: negative
   Assessment and Plan
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 NAUSEA / VOMITING
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 LEUKOCYTOSIS
 PNEUMONIA, ASPIRATION
 CHOLECYSTITIS, ACALCULOUS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-1-28**] 07:30 PM
   PICC Line - [**2118-1-30**] 10:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-01-31 08:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Recurrent NSVT during the day, improved with restarting a BBL
   Cardiac enzymes neg x 3
   PICC placed
   Pain control improved with fentanyl patch
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Cefipime - [**2118-1-31**] 06:44 AM
   Linezolid - [**2118-1-31**] 07:49 AM
   Metronidazole - [**2118-1-31**] 07:49 AM
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2118-1-31**] 04:04 AM
   Pantoprazole (Protonix) - [**2118-1-31**] 07:49 AM
   Heparin Sodium (Prophylaxis) - [**2118-1-31**] 07:49 AM
   Metoprolol - [**2118-1-31**] 07:59 AM
   Other medications:
   D5 NS + 40 KCL at 100/hour
   Pantoprazole 40 [**Hospital1 7**]
   Heparin SC
   Linezolid
   Flagyl
   Cefepime
   Metoprolol 10 mg IV Q6 (got 5 at a time o/n)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: feels
a lot better
 today, no more n/v, pain much
   improved. Breathing ok, no sob. Wants to go back to [**Hospital3 1959**].
   Flowsheet Data as of  [**2118-1-31**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 86 (79 - 125) bpm
   BP: 146/68(85) {129/41(71) - 183/85(106)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.1 kg (admission): 86 kg
             Total In:
                                                                  5,567 mL
                                                                  2,009 mL
   PO:
             TF:
   IVF:
                                                                  5,567 mL
                                                                  2,009 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    670 mL
   Urine:
                                                                    745 mL
                                                                    670 mL
   NG:
                                                                  1,550 mL
   Stool:
   Drains:
   Balance:
                                                                  3,222 mL
                                                                  1,339 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Gen: NAD, awake, smiling today
   Neck: supple, JVP 8cm
   Chest: rales at L  base, decreased at R base
   CV: RRR, no m/r
   Abd: soft, hypoactive BS, no TTP
   Extr: warm, no edema
   Labs / Radiology
   9.5 g/dL
   208 K/uL
   103 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.3 mEq/L
   9 mg/dL
   100 mEq/L
   132 mEq/L
   28.9 %
   4.5 K/uL
        [image002.jpg]
                             [**2118-1-28**]  11:11 PM
                             [**2118-1-29**]  05:56 AM
                             [**2118-1-29**]  03:07 PM
                             [**2118-1-30**]  03:11 AM
                             [**2118-1-30**]  02:34 PM
                             [**2118-1-30**]  08:37 PM
                             [**2118-1-31**]  04:15 AM
   WBC
   9.4
   12.6
   3.8
   5.0
   4.5
   Hct
   38.7
   43.4
   35.3
   31.0
   28.9
   Plt
   [**Telephone/Fax (3) 13336**]31
   208
   Cr
   0.6
   0.6
   0.5
   0.4
   TropT
   <0.01
   0.03
   0.01
   Glucose
   165
   145
   127
   142
   103
   Other labs: PT / PTT / INR:14.9/34.5/1.3, CK / CKMB /
   Troponin-T:14/2/0.01, ALT / AST:28/20, Alk Phos / T Bili:255/1.3,
   Lactic Acid:2.2 mmol/L, LDH:278 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.4 mg/dL
   Micro:
   Blood cxs: NGTD
   C. diff: neg
   Sputum cx: oral secretions, cx cancelled
   Assessment and Plan
   62 yr old lady with a PMH significant for metastatic ovarian cancer
   diagnosed 10 years ago, s/p TAH and BSO, adjuvant chemo (last treated
   [**9-24**]), and peritoneal stripping in [**2110**], HTN, hyperlipidemia, who
   presented initially to [**Hospital6 **] with malasie and
   transferred to [**Hospital1 19**] for ERCP, now extubated and with likely aspiration
   PNA.
   1. Respiratory failure: was intubated due to vomiting post ERCP,
   extubated upon arrival to the [**Hospital Unit Name 1**] but then with persistent vomiting,
   and likely aspiration yesterday. CXR and CT with B effusions and
   consolidation vs. PNA at L base.  Sputum cx c/w oral secretions
   - Continue cefepime, flagyl, linezolid
   - f/up blood cultures
   2. CV: was increasingly more tachy yesterday, and had NSVT, ?sepsis vs.
   pain vs. BBL withdrawal vs. hypoK.  Lytes repleted, and beta blocker
   restarted with improvement in ectopy.
   - continue metoprolol, attempt PNGT dose today
   - goal K > 4, Mg > 2
   3. Cholecystitis: s/p ERCP with sphincterotomy and stenting. Bilis
   trended down, now normal.
   - Conitnue IVF, NPO
   4. SBO: confirmed by CT here, [**1-18**] intraabdominal mets, had  flatus
   yesterday, BS hypoactive today. NGT output decreasing.
   - Continue NGT, IVF, NPO
   5. UTI: at OSH, urine cx here w NG.
   - continue linezolid
   6. Anemia: ?hemoconcentrated on admission; stool guaiac neg, and NGT
   ouput guaiac pos, but less specific.
   - Check PM Hct
   - Continue PPI [**Hospital1 7**]
   - add sucralfate
   7. Metastatic ovarian CA: CTs here revealing intraabd and pulm mets.
   Discussed this with patient and family today. Had prior onc care at
   [**Hospital6 **].  Pain now well controlled with fentanyl patch and
   dilaudid PRN.
   - continue fent + dilaudid for pain control
   - further Onc care per [**Hospital3 1959**] team
   Rest of plan per the Housestaff note.
   ICU Care
   Nutrition: NPO, IVF
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-1-28**] 07:30 PM
   PICC Line - [**2118-1-30**] 10:57 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  PPI
   Communication:  with patient
   Code status: FULL
   Disposition: ready to transfer back to [**Hospital6 2762**] ; will d/w
   them re: ICU bed availability
   Total time spent:  40 min CCT

2118-02-01 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2118-1-31**] 12:40 PM
   - NG tube hemoccult positive, but stools guaic neg
   - Unable to be transferred (no ICU attending to accept her), but can go
   tomorrow
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2118-1-31**] 07:25 PM
   Metronidazole - [**2118-2-1**] 12:17 AM
   Cefipime - [**2118-2-1**] 05:28 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-1-31**] 07:25 PM
   Carafate (Sucralfate) - [**2118-2-1**] 12:17 AM
   Heparin Sodium (Prophylaxis) - [**2118-2-1**] 12:17 AM
   Hydromorphone (Dilaudid) - [**2118-2-1**] 04:00 AM
   Metoprolol - [**2118-2-1**] 04:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-1**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 84 (79 - 103) bpm
   BP: 131/67(81) {128/61(76) - 161/125(128)} mmHg
   RR: 13 (13 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.1 kg (admission): 86 kg
             Total In:
                                                                  4,136 mL
                                                                    339 mL
   PO:
             TF:
   IVF:
                                                                  4,061 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  2,860 mL
                                                                    790 mL
   Urine:
                                                                  2,510 mL
                                                                    790 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,276 mL
                                                                   -451 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   GEN: Pleasant obese middle aged woman in NAD
   CV: RRR, no RMG
   PULM: Reduced basilar breath sounds, scattrered wheezes and rhonchi
   ABD: Quiet bowel sounds, soft, distended, nontender,
   EXT: No edema
   Labs / Radiology
   197 K/uL
   9.1 g/dL
   80 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.0 mEq/L
   5 mg/dL
   112 mEq/L
   133 mEq/L
   27.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2118-1-28**]  11:11 PM
                             [**2118-1-29**]  05:56 AM
                             [**2118-1-29**]  03:07 PM
                             [**2118-1-30**]  03:11 AM
                             [**2118-1-30**]  02:34 PM
                             [**2118-1-30**]  08:37 PM
                             [**2118-1-31**]  04:15 AM
                             [**2118-1-31**]  05:22 PM
                             [**2118-2-1**]  04:31 AM
   WBC
   9.4
   12.6
   3.8
   5.0
   4.5
   5.0
   Hct
   38.7
   43.4
   35.3
   31.0
   28.9
   28.9
   27.3
   Plt
   [**Telephone/Fax (3) 13364**]
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   TropT
   <0.01
   0.03
   0.01
   Glucose
   165
   145
   127
   142
   103
   80
   Other labs:
   ALT / AST : 18/13, Alk Phos / T Bili:189/1.0
   Ca++:6.3 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Micro:
   Blood cxs: NGTD
   C. diff: neg
   Assessment and Plan
   62 yo female w/ PMH sig for metastatic ovarian cancer diagnosed 10
   years ago, s/p TAH and BSO, adjuvant chemo (last treated [**9-24**]), and
   peritoneal stripping in [**2110**], HTN, hyperlipidemia transferred from
   [**Hospital6 **] for cholecystitis and ERCP, now s/p sphincterotomy
   and stent, extubated successfully, but after episode of aspiration and
   now w/ diarrhea and probable partial SBO.
   1. Biliary obstruction: No active issues.
   s/p ERCP with sphincterotomy and stenting. LFTs improving. She remains
   afebrile and hemodynamically stable, but is on abx for UTI (see below).
   With new leukocytosis, though lfts stable.
   -- Trend LFTs
   -- Continue to monitor hemodynamics, cis
   2. Respiratory Failure: Resolved, however concern for aspiration PNA.
   Sputum culture contaminated.
   -- NPO, aspiration precautions
   -- continue flagyl and cefepime to cover HAP (and Linezolid for both
   HAP and UTI)
   3. Anemia: Stable but trending down. Guiac positive green emesis,
   however guiac negative green stool. HCT drop may be dilutional given
   IVFs.
   -- continue check for FOB
   -- Continue PPI , sucralfate
   -- Active type and screen
   -- Transfuse for HCT <21
   -- Large bore IVs x 2
   4. NSVT: High activity in setting of persistent hypokalemia with emesis
   and diarrhea. Likely component of BB withdrawl. PO metoprolol failed.
   -- Aggressive monitoring of lytes with [**Hospital1 7**] K/Mg
   -- replete lytes for K<4, Mg<2
   -- Change to metoprolol 10mg IV Q4H,
   5. SBO: [**1-18**] cancer and adhesions from prior TAH/BSO. NGT output minimal
   over the past 24 hours, however with quiet BS.
   -- Clamp NG tube for transfer given no output
   -- NPO, aspiration precautions, IVFs
   -- Continue antiemetics zofran/compazine
   6. UTI: OSH recs, sig for 100,000 VRE
   -- continue linezolid for HAP per above
   7. Ovarian Cancer: Followed by oncology at [**Hospital6 **] with
   plans for further treatment. Pain well controlled with fentanyl patch
   and dilaudid PRN.
   -- continue fent + dilaudid for pain control
   --transfer today likely
   8. HTN:
   -- Continue BB per above
   9. Hyperlipidemia:
   -- Holding statin given NPO
   ICU Care
   Nutrition: NPO, IVF, Southshore team to consider TPN given pt has been
   NPO for several days
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-1-28**] 07:30 PM
   PICC Line - [**2118-1-30**] 10:57 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  PPI
   Incentive spirometry, nebs
   Communication:  with patient
   Code status: FULL
   Disposition: ready to transfer back to [**Hospital6 2762**]

2118-02-01 09:02:00 Physician Attending Progress Note
Chief Complaint: 62F PMH significant for metastatic ovarian cancer
   diagnosed 10 years ago, s/p TAH and BSO, adjuvant chemo (last treated
   [**9-24**]), and peritoneal stripping in [**2110**], HTN, hyperlipidemia, who
   presented initially to [**Hospital6 **] with malasie and
   transferred to [**Hospital1 19**] for ERCP, now extubated and with likely aspiration
   PNA.  Course c/b SBO and asp pna.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2118-1-31**] 12:40 PM
   Remians NPO.
   [**Hospital 1861**] transfer to [**Hospital3 1959**].
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2118-1-31**] 07:25 PM
   Metronidazole - [**2118-2-1**] 12:17 AM
   Cefipime - [**2118-2-1**] 05:28 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-1-31**] 07:25 PM
   Carafate (Sucralfate) - [**2118-2-1**] 12:17 AM
   Heparin Sodium (Prophylaxis) - [**2118-2-1**] 12:17 AM
   Hydromorphone (Dilaudid) - [**2118-2-1**] 04:00 AM
   Metoprolol - [**2118-2-1**] 04:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-1**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 84 (79 - 103) bpm
   BP: 131/67(81) {128/61(76) - 161/125(128)} mmHg
   RR: 13 (13 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.1 kg (admission): 86 kg
             Total In:
                                                                  4,136 mL
                                                                    466 mL
   PO:
             TF:
   IVF:
                                                                  4,061 mL
                                                                    466 mL
   Blood products:
   Total out:
                                                                  2,860 mL
                                                                    790 mL
   Urine:
                                                                  2,510 mL
                                                                    790 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,276 mL
                                                                   -324 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   197 K/uL
   80 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.0 mEq/L
   5 mg/dL
   112 mEq/L
   133 mEq/L
   27.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2118-1-28**]  11:11 PM
                             [**2118-1-29**]  05:56 AM
                             [**2118-1-29**]  03:07 PM
                             [**2118-1-30**]  03:11 AM
                             [**2118-1-30**]  02:34 PM
                             [**2118-1-30**]  08:37 PM
                             [**2118-1-31**]  04:15 AM
                             [**2118-1-31**]  05:22 PM
                             [**2118-2-1**]  04:31 AM
   WBC
   9.4
   12.6
   3.8
   5.0
   4.5
   5.0
   Hct
   38.7
   43.4
   35.3
   31.0
   28.9
   28.9
   27.3
   Plt
   [**Telephone/Fax (2) 13364**]
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   TropT
   <0.01
   0.03
   0.01
   Glucose
   165
   145
   127
   142
   103
   80
   Other labs: PT / PTT / INR:14.9/34.5/1.3, CK / CKMB /
   Troponin-T:14/2/0.01, ALT / AST:18/13, Alk Phos / T Bili:189/1.0,
   Lactic Acid:2.2 mmol/L, LDH:278 IU/L, Ca++:6.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:1.9 mg/dL
   Microbiology: bl cx neg/ngtd
   c diff neg X 3
   Assessment and Plan
   62F PMH significant for metastatic ovarian cancer diagnosed 10 years
   ago, s/p TAH and BSO, adjuvant chemo (last treated [**9-24**]), and
   peritoneal stripping in [**2110**], HTN, hyperlipidemia, who presented
   initially to [**Hospital6 **] with malasie and transferred to [**Hospital1 19**]
   for ERCP, course c/b SBO and asp pna.
   Active issues remain:
   # Aspiration pna--CXR and CT with B effusions and consolidation vs. PNA
   at L base.  Sputum cx c/w oral secretions
   - Continue cefepime, flagyl, linezolid to complete 8 day course, day 3
   - f/up blood cultures
   start nebs, incentrive spiraometer
   # NSVT: ?sepsis vs. pain vs. BBL withdrawal vs. hypoK.  Lytes repleted,
   and beta blocker restarted with improvement
   - continue metoprolol IV for now
   - maintain lytes goal K > 4, Mg > 2
   #Cholecystitis/biliary obstruction: s/p ERCP with sphincterotomy and
   stenting. LFTs/bili now normal.
   # SBO: confirmed by CT here, [**1-18**] intraabdominal mets and adhesions,
   had  flatus yesterday, BS hypoactive today. minimal NG output at this
   time
   --follow abd exam, clamp NGT, IVF, keep NPO
   # VRE UTI: at OSH, urine cx here w NG.
   - s/p linezolid  course for UTI, now on for asp pna
   # Anemia: likely very hemoconcentrated on admission; stool guaiac neg,
   and NGT ouput guaiac pos, but less specific.
   --Continue PPI [**Hospital1 7**] and sucralfate
   --maintain type and screen
   --large bore IV access
   # Metastatic ovarian CA: CTs here revealing intraabd and pulm mets.
   --Discussed this with patient and famil. Had prior onc care at [**Hospital 7149**].
   --Pain controlled improved with fentanyl patch and dilaudid PRN.
   - further Onc care per [**Hospital3 1959**] team
   # nutrition
   remains NPO with resolving SBO
   nutrition concerns remain,consider starting clears after NGT clamped
   if unable to advance diet would initiate TPN for nutriion
   Rest of plan per the Housestaff note.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-1-28**] 07:30 PM
   PICC Line - [**2118-1-30**] 10:57 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to other facility
   Total time spent: 40 minutes

2118-02-02 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Clamped her NGT
   - No Southshore ICU bed, decided to call out to floor for
   floor-to-floor transfer
   - Repleted K and Mg at MN
   - Still awaiting a floor bed
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2118-2-1**] 07:39 PM
   Metronidazole - [**2118-2-2**] 12:00 AM
   Cefipime - [**2118-2-2**] 05:57 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-2-1**] 07:39 PM
   Heparin Sodium (Prophylaxis) - [**2118-2-2**] 12:00 AM
   Metoprolol - [**2118-2-2**] 04:00 AM
   Hydromorphone (Dilaudid) - [**2118-2-2**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-2**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 91 (88 - 104) bpm
   BP: 140/71(85) {120/64(37) - 160/98(106)} mmHg
   RR: 15 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91 kg (admission): 86 kg
             Total In:
                                                                  1,950 mL
                                                                  1,525 mL
   PO:
             TF:
   IVF:
                                                                  1,950 mL
                                                                  1,405 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    930 mL
   Urine:
                                                                  2,450 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                    595 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   210 K/uL
   9.4 g/dL
   132 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.8 mEq/L
   5 mg/dL
   97 mEq/L
   131 mEq/L
   27.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2118-1-29**]  05:56 AM
                             [**2118-1-29**]  03:07 PM
                             [**2118-1-30**]  03:11 AM
                             [**2118-1-30**]  02:34 PM
                             [**2118-1-30**]  08:37 PM
                             [**2118-1-31**]  04:15 AM
                             [**2118-1-31**]  05:22 PM
                             [**2118-2-1**]  04:31 AM
                             [**2118-2-1**]  04:07 PM
                             [**2118-2-2**]  04:04 AM
   WBC
   12.6
   3.8
   5.0
   4.5
   5.0
   6.5
   Hct
   43.4
   35.3
   31.0
   28.9
   28.9
   27.3
   27.7
   Plt
   273
   268
   231
   [**Telephone/Fax (3) 13382**]
   Cr
   0.6
   0.5
   0.4
   0.4
   0.3
   0.4
   TropT
   <0.01
   0.03
   0.01
   Glucose
   145
   127
   142
   103
   80
   77
   132
   Other labs: PT / PTT / INR:15.1/34.7/1.3, CK / CKMB /
   Troponin-T:14/2/0.01, ALT / AST:15/15, Alk Phos / T Bili:201/1.0,
   Lactic Acid:2.2 mmol/L, LDH:278 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 NAUSEA / VOMITING
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 LEUKOCYTOSIS
 PNEUMONIA, ASPIRATION
 CHOLECYSTITIS, ACALCULOUS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-1-28**] 07:30 PM
   PICC Line - [**2118-1-30**] 10:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: